US07825120B2
tert-butyl 4-(2-hydroxy-5-iodobenzoyl)piperazine-1-carboxylate.
Performed identical to tert-butyl 4-(4-chloro-3-cyanobenzoyl)piperazine-1-carboxylate in Example 1 except 2-hydroxy-5-iodobenzoic acid was used in place of 3-cyano-4-chlorobenzoic acid.

reactant | tert-butyl 4-(4-chloro-3-cyanobenzoyl)piperazine-1-carboxylate | ClC1=C(C=C(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1)C#N | C17H20ClN3O3
reactant | 2-hydroxy-5-iodobenzoic acid | OC1=C(C(=O)O)C=C(C=C1)I | C7H5IO3
product | tert-butyl 4-(2-hydroxy-5-iodobenzoyl)piperazine-1-carboxylate | OC1=C(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=C(C=C1)I | C16H21IN2O4
